US07173129B2
4-{3E-[2,4-Dimethoxy-5-(1-methyl-1H-indol-2-yl)phenyl]acryloyl}-N-methyl-benzenesulfonamide
The title compound was prepared using in an analogous way as Ex-1 using 4-acetyl-N-methyl-benzenesulfonamide (Ex-29A) and 2,4-dimethoxy-5-(1-methyl-1H-indol-2-yl)benzaldehyde (Ex-15A), 57% yield, yellow solid, mp 129–131° C. 1H-NMR (300 MHz, CDCl3) δ 8.17 (d, J=16 Hz, 1H), 8.10 (d, J=9 Hz, 2H), 7.95 (d, J=9 Hz, 2H), 7.68 (s, 1H), 7.64 (d, J=7 Hz), 1H), 7.47 (d, J=16 Hz, 1H), 7.36 (d, J=8 Hz, 1H), 7.22–7.26 (m, 1H), 7.14–7.16 (m, 1H), 6.59 (s, 1H), 6.51 (s, 1H), 4.42 (br s, 1H) 4.03 (s, 3H), 3.90 (s, 3H), 3.58 (s, 3H), 2.69 (d, J=6 Hz, 3H). HRMS (ESI) Calcd. for C27H26N2O5S: 491.1641 (M+H)+; Found: 491.1646.

reactant | 4-acetyl-N-methyl-benzenesulfonamide | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NC | C9H11NO3S
reactant | 2,4-dimethoxy-5-(1-methyl-1H-indol-2-yl)benzaldehyde | COC1=C(C=O)C=C(C(=C1)OC)C=1N(C2=CC=CC=C2C1)C | C18H17NO3
product | 4-{3E-[2,4-Dimethoxy-5-(1-methyl-1H-indol-2-yl)phenyl]acryloyl}-N-methyl-benzenesulfonamide | 57% yield | COC1=C(C=C(C(=C1)OC)C=1N(C2=CC=CC=C2C1)C)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)NC | C27H26N2O5S
